US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2,2-dimethyl-3-oxo-3-pyrrolidin-1-yl-propoxy)-phenyl]-2′-(5-fluoro-2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-propoxy)-phenyl]-2′-(5-fluoro-2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (40 mg, 0.07 mmol), pyrrolidine (0.0083 mL, 0.1 mmol), EDC.HCl (20 mg, 0.1 mmol), and HOBt (14 mg, 0.1 mmol) in THF (5 mL) was added DIPEA (0.018 mL, 0.2 mmol) at rt. The reaction mixture was stirred for 4 h, then concentrated and partitioned between ethyl acetate and water. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layers were dried over MgSO4 and concentrated. The residue was purified with Prep-HPLC to give the title compound as a white solid (Yield: 8 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-propoxy)-phenyl]-2′-(5-fluoro-2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.07 mmol, 40 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C30H27Cl2FN2O5
reactant | pyrrolidine | 0.1 mmol, 0.0083 mL | N1CCCC1 | C4H9N
reactant | EDC.HCl | 0.1 mmol, 20 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.1 mmol, 14 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.2 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2,2-dimethyl-3-oxo-3-pyrrolidin-1-yl-propoxy)-phenyl]-2′-(5-fluoro-2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 8 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC(C(N1CCCC1)=O)(C)C)=O)C1=C(C=CC(=C1)F)C)=O | C34H34Cl2FN3O4
